2135-01-30 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2135-1-29**] 08:32 PM
 PRESEP CATHETER - START [**2135-1-30**] 12:30 AM
   Vascular surgery consult: toe with cellulitis but unlikely as cause of
   sepsis.  Rec: x-ray for osteo r/o, elevate, abx
   Cardiology consult: hypotension likely due to a combination of
   hypovolemia and adrenal insufficiency.  Unlikely to be ACS.
   Transfused 2 U PRBC
   Weaned vent
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2135-1-29**] 11:32 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2135-1-29**] 11:32 PM
   Heparin Sodium (Prophylaxis) - [**2135-1-30**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-30**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.7
C (96.2
   HR: 52 (48 - 84) bpm
   BP: 120/76(85) {82/40(50) - 174/89(107)} mmHg
   RR: 14 (13 - 14) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 15 (10 - 15)mmHg
   Mixed Venous O2% Sat: 97 - 97
   Total In:
                                                                    786 mL
                                                                    802 mL
   PO:
   TF:
   IVF:
                                                                    786 mL
                                                                     52 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                   -970 mL
                                                                    535 mL
   Urine:
                                                                    130 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,756 mL
                                                                    267 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/27/130/16/-8
   Ve: 7.4 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   192 K/uL
   9.7 g/dL
   250 mg/dL
   6.0 mg/dL
   16 mEq/L
   4.6 mEq/L
   59 mg/dL
   104 mEq/L
   134 mEq/L
   29.0 %
   8.4 K/uL
        [image002.jpg]
                            [**2135-1-29**]  06:18 PM
                            [**2135-1-29**]  09:22 PM
                            [**2135-1-30**]  01:32 AM
                            [**2135-1-30**]  04:12 AM
   WBC
   7.3
   8.4
   Hct
   20.0
   25
   29.0
   Plt
   208
   192
   Cr
   6.0
   TropT
   0.95
   1.20
   TCO2
   16
   Glucose
   100
   250
   Other labs: PT / PTT / INR:16.1/30.3/1.4, CK / CKMB /
   Troponin-T:608/20/1.20, ALT / AST:25/49, Alk Phos / T Bili:117/0.4,
   Lactic Acid:2.6 mmol/L, Mg++:2.1 mg/dL, PO4:6.2 mg/dL
   Microbiology: PERITONEAL FLUID: 1+  (<1 per 1000X FIELD):
   POLYMORPHONUCLEAR LEUKOCYTES.  NO MICROORGANISMS SEEN.
   Blood, urine, foot, peritoneal cultures pending
   Assessment and Plan
 WOUND INFECTION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ANEMIA, OTHER
   54 year old man with 3VD, CHF, recent sepsis, ESRD on PD, DM1, admitted
   with septic shock.
   .
   # Shock:  Patient presented with hypotension and chills.  Pressor
   requirement significiantly decreased   Likely infectious sources
   include peritoneal dialysis and his foot infection.  He also has
   unrevascularized 3VD with EKG changes and ST elevations.  Previous
   micro data showed MSSA from foot swab.  He has a h/o MRSA
   - Antibiotics: Vanc/Cipro/Zosyn, daily vanc troughs
   - CVP goal > 12, CVO2 sat > 70
   - Follow PD cath, foot swab, blood, urine, sputum cultures
   - Cardiac echo to r/o cardiogenic shock
   # Myocardial ischemia:  Patient has known 3VD and systolic dysfunction
   and likely has demand ischemia.  This degree of shock would likely
   require a massive insult and he does not appear to be in cardiogenic
   shock on exam.  HR well controlled.
   - trend cardiac enzymes to peak, consider heparin if significantly
   increased.  Based on recent caths, unlikely to benefit from
   revascularization.
   - cardiology following, apprecaite recs.
   - Echo to r/o significant systolic function decline.
   - continue on ASA, Plavix
   - continue on Simvastatin 80mg qHS
   # Acidosis: Presented with AG acidosis, but this AM has non-gap
   acidosis with increased lactate.  pH is normal from respiratory
   compensation
   - continue QID PD to correct acidosis
   - could consider HCO3- if needed to decrease respiratory drive.
   # Adrenal insufficiency: During last admission, patient failed [**Last Name (un) 45**]
   stim test (1.4-->2) and was treated with hydrocort and fludrocort.  He
   was given dex in the ED.
   - hydrocort 100 mg q8
   # Respiratory failure - Intubated for unresponsiveness, but at risk for
   ARDS.
   - wean vent as tolerated
   - follow CXR
   # ESRD c/b failed renal transplant on PD:  He will likely need CVVH in
   the ICU.
   - Renal consult
   # Diabetes type I:  Previously required insulin gtt in setting of
   sepsis and steroids.
   - insulin lantus + ss, low threshold for gtt
   ICU Care
   Nutrition: Consult nutrition for TF recs
   Glycemic Control:  Famotidine
   Lines:
   Presep Catheter - [**2135-1-30**] 12:30 AM
   16 Gauge - [**2135-1-30**] 12:31 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:  Famotidine
   Communication: Patient and wife; ICU consent signed
   Code status: Full (wife reversed in [**Name (NI) **])
   Disposition: ICU

2135-01-30 08:41:00 Physician Attending Progress Note
Chief Complaint:  hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident and fellow for key portions of the services provided.  I agree
   with his / her note above, including assessment and plan.
   HPI:
   54 y o man with DM c/b gastroparesis, neuropathy, ESRD s/p failed
   transplant now on PD, severe 3V CAD, CHF, admitted yesterday after
   presenting with weakness, confusion and hypotension following a run of
   PD.
   24 Hour Events:
   Admitted from the ED intubated and on levophed
   Vascular surgery saw in ED for dusky toe, thought he had cellulits
   Was DNR/DNI, but wife had changed code status upon arrival to ED
   Seen by Cardiology, HoTN thought [**3-22**] adrenal insufficiency and
   hypovolemia; not a primary ischemic event
   Received 2 units of PRBCs for Hct of 20
   Levophed off this morning
   Changed to PS 8/5
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2135-1-29**] 11:32 PM
   Infusions:
   Levophed (off)
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2135-1-29**] 11:32 PM
   Heparin Sodium (Prophylaxis) - [**2135-1-30**] 08:00 AM
   Other medications:
   ISS
   Lantus ([**2-19**] home dose)
   Calcitriol
   Simvastatin
   ASA 81 daily
   Plavix 75 daily
   Heparin SC TID
   Prednisone 5 mg daily
   Cyclosporine
   Vancomycin
   Zosyn
   Cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-30**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.2
C (95.4
   HR: 68 (48 - 84) bpm
   BP: 94/72(77) {82/40(50) - 174/89(107)} mmHg
   RR: 19 (13 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 18 (10 - 18)mmHg
   Mixed Venous O2% Sat: 97 - 97
                                Total In:
                                                                  2,786 mL
                                                                    873 mL
   PO:
                                TF:
   IVF:
                                                                    786 mL
                                                                     63 mL
   Blood products:
   750 mL
   Total out:
                                                                   -970 mL
                                                                    547 mL
   Urine:
                                                                    130 mL
                                                                     47 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,756 mL
                                                                    326 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/27/130/16/-8
   Ve: 7.4 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Gen: intubated, sedated, does not open eyes to command
   Chest: clear bilaterally
   CV: RRR, soft HSM
   Abd: soft, ND + BS, PD catheter site c/d/I, winces to deep abdominal
   palpation
   Extr: warm, no edema, erythema surrounding L mid toes extending half
   way up dorsal surface, no crepitus
   Labs / Radiology
   9.7 g/dL
   192 K/uL
   250 mg/dL
   6.0 mg/dL
   16 mEq/L
   4.6 mEq/L
   59 mg/dL
   104 mEq/L
   134 mEq/L
   29.0 %
   8.4 K/uL
        [image002.jpg]
                            [**2135-1-29**]  06:18 PM
                            [**2135-1-29**]  09:22 PM
                            [**2135-1-30**]  01:32 AM
                            [**2135-1-30**]  04:12 AM
   WBC
   7.3
   8.4
   Hct
   20.0
   25
   29.0
   Plt
   208
   192
   Cr
   6.0
   TropT
   0.95
   1.20
   TCO2
   16
   Glucose
   100
   250
   Other labs: PT / PTT / INR:16.1/30.3/1.4, CK / CKMB /
   Troponin-T:608/20/1.20, ALT / AST:25/49, Alk Phos / T Bili:117/0.4,
   Lactic Acid:2.6 mmol/L, Mg++:2.1 mg/dL, PO4:6.2 mg/dL
   Micro: blood, foot, urine, peritoneal fluid cxs pending
   Assessment and Plan
   54 y o man with DM, ESRD s/p failed transplant now on PD, 3 vessel CAD,
   CHF, admitted with hypotension following a run of PD, intubated for
   altered mental status.
   1. Shock: ?sepsis, but source currently unclear.  Toes c/w cellulitis,
   but unclear if source of sepsis.  BPs improved following aggressive
   fluid rescuscitation ovenight, now off levophed with MAPs > 65.  Has
   known adrenal insufficiency (failed stim in the past, cortisol 2.5 on
   admission here).  Received decadron for stress-dose steroids in the
   ED.  Now hypothermic to 95.4.  Lactate initially down, now back to 2.6.
   - Continue broad abx with vanco, zosyn, cipro x 48 hours of negative
   cultures, may be able to narrow tomorrow if remains hemodynamically
   stable
   - Continue stress dose steroids with hydrocortisone 100 mg IV Q8H
   - trend lactate, CVO2
   - goal MAP > 65
   2. Respiratory failure: intubated for altered mental status in the ED,
   CXR without a clear infiltrate.  Now tolerating PS.
   - SBT later today
   3. CAD: has known severe 3VD, ECG with STDs, troponin slightly trending
   up today.
   - Continue ASA, plavix, statin
   - Repeat TTE
   4. ESRD: on PD at home s/p failed transplant
   - Continue cyclosporine, now on stress-dose steroids
   - PD per renal: Q6 hours
   - Dose vanco p PD
   5. DM: hypoglycemic in the ED, now sugars high, likely [**3-22**] steroids
   - change to insulin gtt given labile sugars
   Addendum: Has had TTE
 not formally read yet, but evidence of
   impairment of worsened EF from baseline with focal wall motion
   abnormality.  Levophed requirement now down to 0.02 and appears to be
   back in sinus rhythm.  CVP in high teens, FIO2 0.4.  Will continue with
   current management and hold on additional fluid for now.  Will trend
   lactate.
   ICU Care
   Nutrition: consult for ?TFs if cannot be extubated
   Glycemic Control:  changing to insulin gtt
   Lines:
   Presep Catheter - [**2135-1-30**] 12:30 AM
   16 Gauge - [**2135-1-30**] 12:31 AM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: h2 blocker
   VAP: HOP elevated, chlorhexidine
   Comments:
   Communication: will update family
   Code status: FULL
   Disposition : ICU
   Total time spent: 35 min CCT

2135-01-31 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Started on levophed for rising lactate and falling MVO2 and these both
   improved.
   Started on stress dose steroids
   Vanc trough 15.8
   Decided against a swan/dobutamine given improvement in MVO2 and
   lactate.
   Got stat echo which showed worsened EF (Prelim fellow read)
   Foot grew coag + staph
   stool sent for c.diff
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2135-1-30**] 09:00 AM
   Ciprofloxacin - [**2135-1-30**] 10:11 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2135-1-30**] 08:34 PM
   Ranitidine (Prophylaxis) - [**2135-1-30**] 10:11 PM
   Heparin Sodium (Prophylaxis) - [**2135-1-30**] 11:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-31**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.2
C (97.2
   HR: 67 (49 - 75) bpm
   BP: 127/81(93) {88/60(66) - 131/87(96)} mmHg
   RR: 23 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 15 (9 - 22)mmHg
   Mixed Venous O2% Sat: 44 - 92
   Total In:
                                                                  1,481 mL
                                                                     99 mL
   PO:
   TF:
   IVF:
                                                                    511 mL
                                                                     69 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,245 mL
                                                                    450 mL
   Urine:
                                                                    145 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    236 mL
                                                                   -351 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 540 (444 - 579) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 7.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   192 K/uL
   9.7 g/dL
   85 mg/dL
   6.1 mg/dL
   19 mEq/L
   4.1 mEq/L
   59 mg/dL
   106 mEq/L
   141 mEq/L
   27.3 %
   8.4 K/uL
        [image002.jpg]
                            [**2135-1-29**]  06:18 PM
                            [**2135-1-29**]  09:22 PM
                            [**2135-1-30**]  01:32 AM
                            [**2135-1-30**]  04:12 AM
                            [**2135-1-30**]  03:00 PM
                            [**2135-1-31**]  03:49 AM
   WBC
   7.3
   8.4
   Hct
   20.0
   25
   29.0
   27.3
   Plt
   208
   192
   Cr
   6.0
   6.1
   TropT
   0.95
   1.20
   1.39
   1.57
   TCO2
   16
   Glucose
   100
   250
   85
   Other labs: PT / PTT / INR:16.1/30.3/1.4, CK / CKMB /
   Troponin-T:430/15/1.57, ALT / AST:25/49, Alk Phos / T Bili:117/0.4,
   Lactic Acid:2.0 mmol/L, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
   54 year old man with 3VD, CHF, recent sepsis, ESRD on PD, DM1, admitted
   with septic shock.
   .
   # Shock:  Patient presented with hypotension and chills.  Pressor
   requirement significiantly decreased   Likely infectious sources
   include peritoneal dialysis and his foot infection.  He also has
   unrevascularized 3VD with EKG changes and ST depressions.  Previous
   micro data showed MSSA from foot swab.  He has a h/o MRSA
   - Antibiotics: Vanc/Cipro/Zosyn, daily vanc troughs
   - CVP goal > 12, CVO2 sat > 70
   - Follow PD cath, foot swab, blood, urine, sputum cultures
   - will place swan to eval for cardiogenic shock, ? dobutamine
   # Myocardial ischemia:  Patient has known 3VD and systolic dysfunction
   and likely has demand ischemia.  This degree of shock would likely
   require a massive insult and he does not appear to be in cardiogenic
   shock on exam.  HR well controlled.
   - trend cardiac enzymes to peak, consider heparin if significantly
   increased.  Based on recent caths, unlikely to benefit from
   revascularization.
   - cardiology following, apprecaite recs.
   - Echo to r/o significant systolic function decline.
   - continue on ASA, Plavix
   - continue on Simvastatin 80mg qHS
   # Acidosis: Presented with AG acidosis, but this AM has non-gap
   acidosis with increased lactate.  pH is normal from respiratory
   compensation
   - continue QID PD to correct acidosis
   - could consider HCO3- if needed to decrease respiratory drive.
   # Adrenal insufficiency: During last admission, patient failed [**Last Name (un) 45**]
   stim test (1.4-->2) and was treated with hydrocort and fludrocort.  He
   was given dex in the ED.
   - hydrocort 100 mg q8
   # Respiratory failure - Intubated for unresponsiveness, but at risk for
   ARDS.
   - wean vent as tolerated
   - follow CXR
   # ESRD c/b failed renal transplant on PD:  He will likely need CVVH in
   the ICU.
   - Renal consult
   # Diabetes type I:  Previously required insulin gtt in setting of
   sepsis and steroids.
   - insulin gtt
   ICU Care
   Nutrition: Consult nutrition for TF recs
   Glycemic Control:  Insulin gtt
   Lines:
   Presep Catheter - [**2135-1-30**] 12:30 AM
   16 Gauge - [**2135-1-30**] 12:31 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:  Famotidine
   Communication: Patient and wife; ICU consent signed
   Code status: Full (wife reversed in [**Name (NI) **])
   Disposition: ICU

2135-01-31 09:32:00 Physician Attending Progress Note
Chief Complaint: Hypotension and respiratory failure
   HPI:
   54M with DMI, peripheral vascular disease; CAD, ESRD s/p failed
   transplant admitted with hypotension and respiratory failure requiring
   intubation.
   24 Hour Events:
   Yesterday had evidence of low CvO2 which decreased off levophed;
   restarted levophed with improvement of central venous oxygenation
   suggesting an increased cardiac output.  Additionally his lactate
   trended down with use of levophed.  SBT.
   TTE with severe global dysfunction; EF 20%.
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2135-1-30**] 09:00 AM
   Ciprofloxacin - [**2135-1-30**] 10:11 PM
   Vancomycin
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2135-1-30**] 08:34 PM
   Ranitidine (Prophylaxis) - [**2135-1-30**] 10:11 PM
   Heparin Sodium (Prophylaxis) - [**2135-1-30**] 11:12 PM
   Other medications:
   Calcitriol
   Simvastatin
   Plavix
   Chlorhexidine
   Cyclosporine
   Hydrocortisone IV q6h
   Insulin sliding scale
   ASA
   Changes to medical and family history:
   No change
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-31**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.2
C (97.2
   HR: 67 (49 - 75) bpm
   BP: 127/81(93) {88/60(66) - 131/87(96)} mmHg
   RR: 23 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 15 (9 - 22)mmHg
   Mixed Venous O2% Sat: 44 - 92
   Total In:
                                                                  1,481 mL
                                                                    112 mL
   PO:
   TF:
   IVF:
                                                                    511 mL
                                                                     82 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,245 mL
                                                                    450 mL
   Urine:
                                                                    145 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    236 mL
                                                                   -338 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 579) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 8.5 L/min
   Physical Examination
   Gen: awake, follows commands, attempting to sit up.
   Mouth: ETT
   Chest: clear anterior/posterior fields
   CV:  RRR
   Abd: PD site clean; non-tender/non-distended
   Ext:  cool lower extremities; left LE with hyperemia at foot/toes
   Labs / Radiology
   9.3 g/dL
   183 K/uL
   85 mg/dL
   6.1 mg/dL
   19 mEq/L
   4.1 mEq/L
   59 mg/dL
   106 mEq/L
   141 mEq/L
   27.3 %
   10.4 K/uL
        [image002.jpg]
                            [**2135-1-29**]  06:18 PM
                            [**2135-1-29**]  09:22 PM
                            [**2135-1-30**]  01:32 AM
                            [**2135-1-30**]  04:12 AM
                            [**2135-1-30**]  03:00 PM
                            [**2135-1-31**]  03:49 AM
   WBC
   7.3
   8.4
   10.4
   Hct
   20.0
   25
   29.0
   27.3
   Plt
   [**Telephone/Fax (3) 11136**]
   Cr
   6.0
   6.1
   TropT
   0.95
   1.20
   1.39
   1.57
   TCO2
   16
   Glucose
   100
   250
   85
   Other labs: PT / PTT / INR:16.1/30.3/1.4, CK / CKMB /
   Troponin-T:430/15/1.57, ALT / AST:25/49, Alk Phos / T Bili:117/0.4,
   Differential-Neuts:87.4 %, Lymph:9.3 %, Mono:3.2 %, Eos:0.1 %, Lactic
   Acid:2.0 mmol/L, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:7.2 mg/dL
   Fluid analysis / Other labs: CvO2: 67%
   Vancomycin: 14
   Imaging: CXR: Low lung volumes; clear lungs
   Microbiology: Foot culture: MSSA
   Assessment and Plan
   54yoM with vascular disease, CAD, ESRD on PD; admitted with evidence of
   sepsis leading to worsened cardiac function with sepsis-myocardial
   dysfunction.  Unclear source of infection, but no other obvious source
   except for his lower-extremity wound.
   1.  Shock/Sepsis:   Remains on levophed to augment cardiac output given
   decline in CvO2 off agents yesterday.
   - Mixed cardiogenic and septic shock.
   - Adrenal insufficiency in past and cortisol 2.5 on admission
 c/w SD
   steroids
   -  Follow-up lactate/CvO2; suspect he requires higher MAP with his
   vascular disease
   2.  Respiratory Failure:  Stable on minimal support/SBT.
    - possible OR today for amputation; will remain intubated awaiting
   OR.  Continue sedation with propofol.
   -  Plan to extubated after OR today.
   3.  Vascular disease/LLE ulcer:
   - discuss with vascular, possible plan for OR today for amputation
   4. CV:  suspect underlying CAD, though not clear this event is
   primarily cardiac
   - appreciate cardiology involvement; reviewing his anatomy from prior
   cath.
   5. ESRD: on home PD.
   ICU Care
   Nutrition:  NPO for extubation/possible OR
   Glycemic Control:  Glargine; insulin sliding scale
   Lines:
   Presep Catheter - [**2135-1-30**] 12:30 AM
   16 Gauge - [**2135-1-30**] 12:31 AM
   Prophylaxis:
   DVT: Heparin prophylaxis
   Stress ulcer:  PPI
   VAP:  HOB/chlorhexidine
   Communication:  Will update family
   Code status:  Full code (DNR/DNI previously)
   Disposition : Critically ill, remain in ICU
   Total time spent:  36 minutes CCT

2135-02-01 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 OR SENT (Toe amputation) - At [**2135-1-31**] 11:30 AM
 OR RECEIVED - At [**2135-1-31**] 12:15 PM
 INVASIVE VENTILATION - STOP [**2135-1-31**] 05:41 PM
   Cards recs: NTD con't current management
   Vascular amputated left 2nd toe as possible source of infection
   Code status confirmed with patient and wife as full
   Extubated
   Renal decreased cyclosporine from 50 [**Hospital1 **] to 25 [**Hospital1 **] to decrease risk of
   further infections.
   C.diff positive, started on IV flagyl, PO vanco
   Weened of levo at 9pm, lactate at 10:45 pm down to 1.5, MVo2 sat down
   to 58
   Slightly "off" overnight, very concerned about his non-square room
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2135-1-31**] 09:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2135-1-31**] 04:00 PM
   Ciprofloxacin - [**2135-1-31**] 10:00 PM
   Piperacillin - [**2135-2-1**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2135-1-31**] 10:36 PM
   Heparin Sodium (Prophylaxis) - [**2135-1-31**] 10:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-2-1**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.4
C (95.8
   HR: 73 (57 - 74) bpm
   BP: 120/76(88) {104/66(77) - 128/83(95)} mmHg
   RR: 13 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    Mixed Venous O2% Sat: 64 - 64
   Total In:
                                                                  1,070 mL
                                                                    340 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    920 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,515 mL
                                                                    -55 mL
   Urine:
                                                                    215 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -445 mL
                                                                    395 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 7.9 L/min
   Physical Examination
   Gen:  follows commands
   Heart: Bradycardic, regular, No MRG
   Lungs: CTAB
   Abd: soft, NT, ND, BS+
   Ext: s/p amputation, erythematous area 2cm around edge of ulcer on L
   heel.
   Labs / Radiology
   175 K/uL
   8.8 g/dL
   293 mg/dL
   5.7 mg/dL
   18 mEq/L
   4.0 mEq/L
   54 mg/dL
   102 mEq/L
   137 mEq/L
   26.5 %
   6.3 K/uL
        [image002.jpg]
                            [**2135-1-29**]  06:18 PM
                            [**2135-1-29**]  09:22 PM
                            [**2135-1-30**]  01:32 AM
                            [**2135-1-30**]  04:12 AM
                            [**2135-1-30**]  03:00 PM
                            [**2135-1-31**]  03:49 AM
                            [**2135-2-1**]  04:22 AM
   WBC
   7.3
   8.4
   10.4
   6.3
   Hct
   20.0
   25
   29.0
   27.3
   26.5
   Plt
   [**Telephone/Fax (3) 11145**]75
   Cr
   6.0
   6.1
   5.7
   TropT
   0.95
   1.20
   1.39
   1.57
   TCO2
   16
   Glucose
   100
   250
   85
   293
   Other labs: PT / PTT / INR:14.1/37.2/1.2, CK / CKMB /
   Troponin-T:430/15/1.57, ALT / AST:25/49, Alk Phos / T Bili:117/0.4,
   Differential-Neuts:87.4 %, Lymph:9.3 %, Mono:3.2 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:8.1 mg/dL
   Imaging: Foot 2-views:
   1. Cortical irregularity and periosteal reaction in the shaft of the
   proximal phalanx of the great toe, is concerning for osteomyelitis.
   2. Suspected minimally impacted fracture at the base of the middle
   phalanx of the left second toe.
   3. Continued healing of the proximal left metatarsal shaft fracture
   with callus formation and obscuration of the fracture line.
   Microbiology: FECES POSITIVE FOR C. DIFFICILE TOXIN BY EIA.
   [**2135-1-29**] 9:12 pm FOOT CULTURE      Source: Left toe.
   WOUND CULTURE (Final [**2135-1-31**]):   STAPH AUREUS COAG +.    MODERATE
   GROWTH.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPH AUREUS COAG +
                                |
   ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------  0.25 S
   OXACILLIN-------------   0.5 S
   TRIMETHOPRIM/SULFA---- <=0.5 S
   Assessment and Plan
 HYPERGLYCEMIA
 WOUND INFECTION
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ANEMIA, OTHER
   54 year old man with 3VD, CHF, recent sepsis, ESRD on PD, DM1, admitted
   with septic shock and cardiac component.
   .
   # Shock:  BP normalized.  Likely initiated by sepsis from his foot but
   potentiated by cardiac insuficiency.  Confirmed sources are MSSA in toe
   and C.diff.   He is s/p amputation of infected toe on [**1-31**]
   - Antibiotics: Vanc/Cipro/Zosyn; narrowed to Unasyn [**2-1**]; started PO
   Vanc on [**1-31**] for C. diff
   - plan to restart metoprolol tomorrow
   # Myocardial ischemia: Echo appears much worse than prior. Most likely
   initiated by septic shock w/ some myocardial stunning. Cardiology is
   going to review his anatomy to determine if he would be a CABG
   candidate in the future as he has been refused by Csurg previously.
   Holding heparin as does not appear to be primary thrombotic.
   - cardiology following, apprecaite recs.
   - continue on ASA, Plavix
   - continue on Simvastatin 80mg qHS
   # Adrenal insufficiency: much improved, but lactate slightly up.
   - continue stress-dose steroids for now; taper to q8 today.  Pred 10 mg
   PO daily tomorrow
   # Respiratory failure : Stable post extubation
   - follow CXR
   # ESRD c/b failed renal transplant on PD:  He will likely need CVVH in
   the ICU.
   - continue PD per renal
   - continue immunosuppression
   - Dose meds for PD
   # Diabetes type I:  Previously required insulin gtt in setting of
   sepsis and steroids.
   - glargine + SSI; uptitrated today
   ICU Care
   Nutrition: Diet per S&Sw
   Lines:
   Presep Catheter - [**2135-1-30**] 12:30 AM
   16 Gauge - [**2135-1-30**] 12:31 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:  Famotidine
   Communication: Patient and wife; ICU consent signed
   Code status: Full (wife reversed in [**Name (NI) **])
   Disposition: floor

2135-02-01 10:04:00 Physician Attending Progress Note
Chief Complaint:
   Hypotension, respiratory failure
   HPI:
   54yoM with PVD; ESRD s/p failed transplant, admitted with hypotension
   (? Cardiac vs. sepsis), respiratory failure; now s/p toe amp.
   24 Hour Events:
   S/p amputation of toe yesterday.
   Extubated without difficulty.
   Cdiff positive; started IV flagyl/PO vancomycin
   Off levophed; lactate normalized.  CvO2 remained depressed.
   Otherwise stable.
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Vancomycin IV - [**2135-1-31**] 09:30 AM
   Vancomycin PO
   Piperacillin/Tazobactam (Zosyn) - [**2135-1-31**] 04:00 PM
   Ciprofloxacin - [**2135-1-31**] 10:00 PM
   Piperacillin - [**2135-2-1**] 08:18 AM
   Metronidazole - [**2135-2-1**] 09:39 AM
   Other ICU medications:
   Famotidine (Pepcid) - [**2135-1-31**] 10:36 PM
   Heparin Sodium (Prophylaxis) - [**2135-1-31**] 10:55 PM
   Other medications:
   Simvastatin
   ASA
   Plavix
   Hydrocortisone 25mg q6h
   Cyclosporine
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-2-1**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.4
C (95.8
   HR: 74 (57 - 74) bpm
   BP: 128/80(92) {104/66(77) - 128/83(95)} mmHg
   RR: 12 (11 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Mixed Venous O2% Sat: 64 - 64
   Total In:
                                                                  1,070 mL
                                                                    540 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    920 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,515 mL
                                                                     25 mL
   Urine:
                                                                    215 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -445 mL
                                                                    515 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   SpO2: 98%
   ABG: ///18/
   Ve: 7.9 L/min
   Physical Examination
   Gen: Awake, alert, oriented
   Chest:  clear lungs
   CV: RRR no murmur
   Abd: s/nt/nd
   Ext: minimal edema; dressing intact
   Labs / Radiology
   8.8 g/dL
   175 K/uL
   293 mg/dL
   5.7 mg/dL
   18 mEq/L
   4.0 mEq/L
   54 mg/dL
   102 mEq/L
   137 mEq/L
   26.5 %
   6.3 K/uL
        [image002.jpg]
                            [**2135-1-29**]  06:18 PM
                            [**2135-1-29**]  09:22 PM
                            [**2135-1-30**]  01:32 AM
                            [**2135-1-30**]  04:12 AM
                            [**2135-1-30**]  03:00 PM
                            [**2135-1-31**]  03:49 AM
                            [**2135-2-1**]  04:22 AM
   WBC
   7.3
   8.4
   10.4
   6.3
   Hct
   20.0
   25
   29.0
   27.3
   26.5
   Plt
   [**Telephone/Fax (3) 11145**]75
   Cr
   6.0
   6.1
   5.7
   TropT
   0.95
   1.20
   1.39
   1.57
   TCO2
   16
   Glucose
   100
   250
   85
   293
   Other labs: PT / PTT / INR:14.1/37.2/1.2, CK / CKMB /
   Troponin-T:430/15/1.57, ALT / AST:25/49, Alk Phos / T Bili:117/0.4,
   Differential-Neuts:87.4 %, Lymph:9.3 %, Mono:3.2 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L, Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:8.1 mg/dL
   Micro: Staph aureus
 wound swab; surgical cultures pending.
   Stool: cdiff positive
   Assessment and Plan
   54M with ESRD s/p failed transplant but still on immunosuppression; on
   PD, PVD, admitted with likely septic shock from possible osteomyelitis
   and cdiff infection.
   1.       Shock:  Improved now s/p toe amputation and antibiotics,
   possible adrenal insufficienty +/- hypovolemia
   - improved lactate
   - monitor mentation, BP
   - continue antibiotics as below
   - Continue hydrocortisone 25mg q8; change to prednisone 10mg tomorrow
   2.       Toe ulcer/possible osteo
   - Treat with unasyn for MSSA from swab
   3.       Cdiff: +stool culture; no leukocytosis; known to be
   immunosuppressed
   - plan to use PO vancomycin alone given clinical improvement
   4.       Renal:  on peritoneal dialysis
   5.       CV:  Likely sepsis induced myocardial dysfunction on
   pre-existing cardiac disease
   - appreciate cardiology input; continue ASA/Plavix/statin; consider
   adding back metoprolol when stable.
   ICU Care
   Nutrition: DM, renal diet
   Glycemic Control:  Glargine, insulin sliding scale
   Lines:
   Presep Catheter - [**2135-1-30**] 12:30 AM
   16 Gauge - [**2135-1-30**] 12:31 AM
   Prophylaxis:
   DVT: heparin prophylaxis
   Stress ulcer:  PPI
   VAP: Not intubated
   Communication:  Wife updated, patient updated during rounds
   Code status: Full code
   Disposition : Transfer to floor
   Total time spent:  25minutes